US08119805B2
Stage (iii): (E)-Ethyl 3-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)acrylate
A solution of triethyl phosphonoacetate (3.8 mmol, 1.2 eq) in THF (12 ml) was added dropwise to a suspension of NaH (3.8 mmol, 1.2 eq) in THF (12 ml) at 0° C. and the mixture was stirred for 30 min. 1-(4-Methoxy-2,6-dimethylphenylsulfonyl)piperidine-2-carbaldehyde (3.2 mmol) in THF (6 ml) was then added and the mixture was stirred for a further 30 min. The reaction mixture was warmed to room temperature and stirred for 12 h. Hydrolysis was then carried out with water and the mixture was extracted with ethyl acetate. The organic phase was washed with water (20 ml) and saturated sodium chloride solution (20 ml), dried over sodium sulfate and concentrated. The crude product was purified by column chromatography (5-20% ethyl acetate in hexane). Yield: 40%

reactant | NaH | 3.8 mmol, 1.2 eq | [H-].[Na+]
reactant | 1-(4-Methoxy-2,6-dimethylphenylsulfonyl)piperidine-2-carbaldehyde | 3.2 mmol | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CCCC1)C=O)C | C15H21NO4S
reactant | water | O | H2O
reactant | THF | 12 ml | C1CCOC1 | C4H8O
reactant | THF | 12 ml | C1CCOC1 | C4H8O
reactant | THF | 6 ml | C1CCOC1 | C4H8O
product | (E)-Ethyl 3-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)acrylate | Yield: 40% | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CCCC1)/C=C/C(=O)OCC)C | C19H27NO5S
